US04061761
b. 4-(4-Chloro-3-dipropylsulfamoylphenyl)-3-methyl-2-methylimino-1,3-thiazolidine-4-ol-hydrochloride
4.8 g of 2,4'-dichloro-3'-dipropylsulfamoylacetophenone and 1.5 g of 1,3-dimethylthiourea were reacted as prescribed in Example 23 and worked up. Colorless crystals, melting point: 166° C (decomposition).

reactant | 2,4'-dichloro-3'-dipropylsulfamoylacetophenone | 4.8 g | ClCC(=O)C1=CC(=C(C=C1)Cl)S(N(CCC)CCC)(=O)=O | C14H19Cl2NO3S
reactant | 1,3-dimethylthiourea | 1.5 g | CNC(=S)NC | C3H8N2S
product | 4-(4-Chloro-3-dipropylsulfamoylphenyl)-3-methyl-2-methylimino-1,3-thiazolidine-4-ol-hydrochloride | Cl.ClC1=C(C=C(C=C1)C1(N(C(SC1)=NC)C)O)S(N(CCC)CCC)(=O)=O | InChI=1S/C17H26ClN3O3S2.ClH/c1-5-9-21(10-6-2)26(23,24)15-11-13(7-8-14(15)18)17(22)12-25-16(19-3)20(17)4;/h7-8,11,22H,5-6,9-10,12H2,1-4H3;1H
